US05362733
5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-4-thioxo-2-oxazolidinone
A solution containing 0.25 g of 4-thioxo-2-oxazolone 0.38 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.1 ml of piperidine in 5 ml of acetic acid was heated overnight at 100° C. The product was filtered and washed with attic acid. Yield 0.05 g, mp 245° C.

reactant | 4-thioxo-2-oxazolone | 0.25 g | S=C1NC(OC1)=O | C3H3NO2S
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-4-thioxo-2-oxazolidinone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1C(NC(O1)=O)=S | C10H6N2O6S
